US07375227B2
363A. 4-Trifluoromethanesulfonyl-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester
To a cooled (−78° C.) solution of LDA (2.76 mL, 5.52 mmol) in anhydrous THF (6 mL), is added dropwise a solution of 4-oxo-piperidine-1-carboxylic acid tert-butyl ester (1 g, 5.02 mmol) in anhydrous THF (6 mL). After stirring at −78° C. for 20 min, a solution of N-phenyltrifluoromethanesulfonimide (1.91 g, 5.34 mmol) in anhydrous THF (6 mL) is added dropwise. The mixture is stirred at 0° C. for 3 h and then concentrated in vacuo. The resulting oil is dissolved in CH2Cl2 (3 mL) and loaded onto a pad of neutral alumina and eluted with (Hex/EtOAc, 9/1) to provide the title compound.

reactant | LDA | 5.52 mmol, 2.76 mL | [Li+].CC(C)[N-]C(C)C
reactant | 4-oxo-piperidine-1-carboxylic acid tert-butyl ester | 5.02 mmol, 1 g | C(C)(C)(C)OC(=O)N1CCC(CC1)=O | C10H17NO3
reactant | N-phenyltrifluoromethanesulfonimide | 5.34 mmol, 1.91 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
solvent | THF | 6 mL | C1CCOC1 | C4H8O
solvent | THF | 6 mL | C1CCOC1 | C4H8O
solvent | THF | 6 mL | C1CCOC1 | C4H8O
product | 4-Trifluoromethanesulfonyl-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(=CC1)S(=O)(=O)C(F)(F)F | C11H16F3NO4S
